US07432256B2
b) 2-(5-Dimethylaminomethyl-4-methyl-imidazol-1-yl)-5-nitro-benzonitrile
In analogy to example 5b, 2-(4-methyl-imidazol-1-yl)-5-nitro-benzonitrile (+regioisomer) was reacted with Eschenmoser's salt in DMF for 16 h at 90° C. Evaporation of the solvent, aqueous workup and chromatography afforded the title compound as a yellow oil that was sufficiently pure to be used in the next step (yield: 35%). MS: m/e=286.1 [M+H]+.

reactant | 2-(4-methyl-imidazol-1-yl)-5-nitro-benzonitrile | CC=1N=CN(C1)C1=C(C#N)C=C(C=C1)[N+](=O)[O-] | C11H8N4O2
reactant | Eschenmoser's salt | C[N+](=C)C.[I-]
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-(5-Dimethylaminomethyl-4-methyl-imidazol-1-yl)-5-nitro-benzonitrile | yield: 35% | CN(C)CC1=C(N=CN1C1=C(C#N)C=C(C=C1)[N+](=O)[O-])C | C14H15N5O2
